US03956347
1.0 g. of 21-hydroxy-4-pregnene-3,20-dione is dissolved in 125 ml. of methanol and combined with a solution of 250 mg. of copper(II) acetate in 125 ml. of methanol. For 30 minutes, air is passed through the solution, and the latter is then combined with a solution of 500 mg. of ethylenediaminetetraacetic acid in 50 ml. of water, adjusted to pH 9 with 1N sodium hydroxide solution. The mixture is concentrated under vacuum at 40° C. and extracted with ethyl acetate. The extract is dried over sodium sulfate and evaporated under vacuum. As the residue, 1.1 g. of 3,20-dioxo-4-pregnen-21-al is obtained as a viscous oil.

reactant | 21-hydroxy-4-pregnene-3,20-dione | OCC([C@H]1CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3CC[C@]12C)=O)=O | C21H30O3
reactant | methanol | CO | CH4O
reactant | ethylenediaminetetraacetic acid | C(CN(CC(=O)O)CC(=O)O)N(CC(=O)O)CC(=O)O | C10H16N2O8
reactant | sodium hydroxide | 1N | [OH-].[Na+]
catalyst | copper(II) acetate | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | 3,20-dioxo-4-pregnen-21-al | O=C1C=C2CC[C@H]3[C@@H]4CC[C@H](C(C=O)=O)[C@]4(CC[C@@H]3[C@]2(CC1)C)C | C21H28O3
